US06518257B1
(iv) Production of 4′-fluoro-5-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-yl trifluoromethanesulfonate
To a solution of 4′-fluoro-5-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-ol (1.10 g) in pyridine (7 ml) was added dropwise at 0° C. trifluoromethanesulfonic anhydride (0.423 ml), and the mixture was stirred at 0° C. for 20 min and at room temperature for 40 min. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate. The mixture was washed 3 times with 5% aqueous citric acid solution, and with water, saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chomatography (eluent;hexane:ethyl acetate=5:1) to give the colorless amorphous title compound (1.06 g).

reactant | 4′-fluoro-5-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-ol | 1.10 g | FC1=CC=C(C=C1)C=1C(=CC=C(C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)O | C38H33FN2O2
reactant | trifluoromethanesulfonic anhydride | 0.423 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 4′-fluoro-5-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-2-yl trifluoromethanesulfonate | 1.06 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C1=CC=C(C=C1)F)(F)F | C39H32F4N2O4S
